US08211925B2
[2-(3-Isopropoxy-5-phenoxy-benzoylamino)-thiazol-4-yl]-acetic acid ethyl ester
The title compound was prepared from ethyl 2-aminothiazol-4-ylacetate and 3-isopropyloxy-5-phenoxybenzoic acid following synthetic description A.

reactant | ethyl 2-aminothiazol-4-ylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-isopropyloxy-5-phenoxybenzoic acid | C(C)(C)OC=1C=C(C(=O)O)C=C(C1)OC1=CC=CC=C1 | C16H16O4
product | [2-(3-Isopropoxy-5-phenoxy-benzoylamino)-thiazol-4-yl]-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(C1=CC(=CC(=C1)OC1=CC=CC=C1)OC(C)C)=O)=O | C23H24N2O5S
